US06180622B2
2-Hydroxymethylimidazo[5,1-b]thiazole hydrochloride (1.40 g) is suspended in 15 ml of THF, 0.8 ml of thionyl chloride is added thereto, and the mixture is stirred at 60° C. for 1.5 hr. The solvent is removed by evaporation to give 2-chloromethylimidazo[5,1-b]thiazole hydrochloride. This compound is dissolved in 7 ml of DMF, 1.78 g of triphenylphosphine is added thereto, and the mixture is stirred at 100° C. for 12 hr. The resultant precipitate is collected by filtration to give 2.14 g of (imidazo[5,1-b]thiazol-2-yl)methyltriphenylphosphonium chloride hydrochloride.

reactant | 2-Hydroxymethylimidazo[5,1-b]thiazole hydrochloride | 1.40 g | Cl.OCC1=CN2C(S1)=CN=C2
reactant | thionyl chloride | 0.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-chloromethylimidazo[5,1-b]thiazole hydrochloride | Cl.ClCC1=CN2C(S1)=CN=C2 | InChI=1S/C6H5ClN2S.ClH/c7-1-5-3-9-4-8-2-6(9)10-5;/h2-4H,1H2;1H
